US05077409
5-Methyl-3-[[4-[[[4-(tetradecyloxy)phenyl ]acetyl]amino]phenyl]methyl]thiazolium bromide
A mixture of 3.5 g of N-[4-(bromomethyl)phenyl]-4-(tetradecyloxy)benzeneacetamide and 2.69 g of 5-methylthiazole in 45 ml of toluene is refluxed under argon for 6 hours, then allowed to stand at ambient temperature overnight. The mixture is diluted with ether then evaporated to a residue which is dissolved in hot tetrahydrofuran and again diluted with ether. The solid is collected by centrifugation and washed with ether several times then dried under vacuum to give 1.9 g of the product as a white powder, m.p. 120°-125° C.

reactant | N-[4-(bromomethyl)phenyl]-4-(tetradecyloxy)benzeneacetamide | 3.5 g | BrCC1=CC=C(C=C1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C29H42BrNO2
reactant | 5-methylthiazole | 2.69 g | CC1=CN=CS1 | C4H5NS
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 5-Methyl-3-[[4-[[[4-(tetradecyloxy)phenyl ]acetyl]amino]phenyl]methyl]thiazolium bromide | 1.9 g | [Br-].CC1=C[N+](=CS1)CC1=CC=C(C=C1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | InChI=1S/C33H46N2O2S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-23-37-32-21-17-29(18-22-32)24-33(36)34-31-19-15-30(16-20-31)26-35-25-28(2)38-27-35;/h15-22,25,27H,3-14,23-24,26H2,1-2H3;1H
